### PR TITLE
[Merged by Bors] - feat: port Data.Real.Basic

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

- [x] depends on: #1469

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#1469
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#1469~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

File: Mathlib/Data/Real/Basic.lean [hunk 1]
```diff
@@ -0,0 +1,927 @@
...
+
+noncomputable instance decidableEq (a b : ℝ) : Decidable (a = b) := by infer_instance
+#align real.decidable_eq Real.decidableEq
+
+/-- Show an underlying cauchy sequence for real numbers.
+
+The representative chosen is the one passed in the VM to `quot.mk`, so two cauchy sequences
+converging to the same number may be printed differently.
+-/
+unsafe instance : Repr ℝ where repr r := "real.of_cauchy " ++ repr r.cauchy
```
Comment (eric-wieser) [inline Mathlib/Data/Real/Basic.lean:603]:
```suggestion
unsafe instance : Repr ℝ where reprPrec r n := "real.of_cauchy " ++ repr r.cauchy
```

File: test/Real.lean [hunk 2]
```diff
@@ -0,0 +1,17 @@
...
+! leanprover-community/mathlib commit d7943885503965d07ccaeb390d65fbc3f45962e6
+! Please do not edit these lines, except to modify the commit id
+! if you have ported upstream changes.
+-/
+import Mathlib.Data.Real.Basic
+
+unsafe def testRepr (r : ℝ) (s : String) : Lean.Elab.Command.CommandElabM Unit  :=
+unless toString (repr r) = s do throwError "got {repr r}"
+
+run_cmd testRepr 0 "Real.ofCauchy (sorry /- 0, 0, 0, 0, 0, 0, 0, 0, 0, 0, ... -/)"
```
Comment (eric-wieser) [inline test/Real.lean:12]: This currently fails due to something I don't understand about `unsafe`. I've asked at https://leanprover.zulipchat.com/#narrow/stream/270676-lean4/topic/run_cmd.20and.20unsafe/near/321137546 what the right spelling is. If we finish the port of the rest of the file and this is still pending, we can revert these tests.

File: Mathlib/Data/Real/Basic.lean [hunk 3]
```diff
@@ -0,0 +1,919 @@
...
+attribute [nolint docBlame] Real.cauchy
+
+@[inherit_doc]
+notation "ℝ" => Real
+
+--attribute [pp_using_anonymous_constructor] Real
+
+namespace CauSeq.Completion
+
+-- this can't go in `data.real.cau_seq_completion` as the structure on `rat` isn't available
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:46]:
```suggestion
-- this can't go in `Data.Real.CauSeqCompletion` as the structure on `ℚ` isn't available
```

File: Mathlib/Data/Real/Basic.lean [hunk 4]
```diff
@@ -0,0 +1,919 @@
...
+
+noncomputable instance decidableLe (a b : ℝ) : Decidable (a ≤ b) := by infer_instance
+#align real.decidable_le Real.decidableLe
+
+noncomputable instance decidableEq (a b : ℝ) : Decidable (a = b) := by infer_instance
+#align real.decidable_eq Real.decidableEq
+
+/-- Show an underlying cauchy sequence for real numbers.
+
+The representative chosen is the one passed in the VM to `quot.mk`, so two cauchy sequences
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:607]:
```suggestion
The representative chosen is the one passed in the VM to `Quot.mk`, so two cauchy sequences
```

File: Mathlib/Data/Real/Basic.lean [hunk 5]
```diff
@@ -246,12 +248,11 @@ def ringEquivCauchy : ℝ ≃+* CauSeq.Completion.CauchyCat abs :=
  `field ℝ` is found first, then decaying it to these typeclasses would result in a `noncomputable`
  version of them. -/
 
-
 instance : Ring ℝ := by infer_instance
 
 instance : CommSemiring ℝ := by infer_instance
 
-instance : Semiring ℝ := by infer_instance
+instance semiring : Semiring ℝ := by infer_instance
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:255]: Is this intentional? The other instances are not named.

File: Mathlib/Data/Real/Basic.lean [hunk 6]
```diff
@@ -372,40 +371,42 @@ theorem add_lt_add_iff_left {a b : ℝ} (c : ℝ) : c + a < c + b ↔ a < b :=
   show Pos _ ↔ Pos _; rw [add_sub_add_left_eq_sub]
 #align real.add_lt_add_iff_left Real.add_lt_add_iff_left
 
-instance : PartialOrder ℝ where
+instance partialOrder : PartialOrder ℝ where
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:374]: Is this intenionally named?

File: Mathlib/Data/Real/Basic.lean [hunk 7]
```diff
@@ -414,126 +415,130 @@ protected theorem mul_pos {a b : ℝ} : 0 < a → 0 < b → 0 < a * b :=
...
       simp only [le_iff_eq_or_lt]
       rintro a b ⟨rfl, h⟩
-      · simp
+      · simp only [lt_self_iff_false, or_false, forall_const]
       · exact fun c => Or.inr ((add_lt_add_iff_left c).2 ‹_›)
     zero_le_one := le_of_lt Real.zero_lt_one
     mul_pos := @Real.mul_pos }
 
-instance : StrictOrderedRing ℝ :=
+instance strictOrderedRing : StrictOrderedRing ℝ :=
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:427]: None of these were named in the mathport output, afaict.

File: Mathlib/Data/Real/Basic.lean [hunk 8]
```diff
@@ -414,126 +415,130 @@ protected theorem mul_pos {a b : ℝ} : 0 < a → 0 < b → 0 < a * b :=
...
+      induction' a using Real.ind_mk with a
+      induction' b using Real.ind_mk with b
+      induction' c using Real.ind_mk with c
+      apply Eq.le
+      simp only [← mk_sup, ← mk_inf]
+      exact congr_arg mk (CauSeq.sup_inf_distrib_left _ _ _).symm }
 
 -- Extra instances to short-circuit type class resolution
-instance : Lattice ℝ :=
+instance lattice : Lattice ℝ :=
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:541]: Idem

File: Mathlib/Data/Real/Basic.lean [hunk 9]
```diff
@@ -545,12 +550,16 @@ instance : SemilatticeSup ℝ :=
...
 instance : IsTotal ℝ (· ≤ ·) :=
-  ⟨fun a => (Real.ind_mk a) fun a b => (Real.ind_mk b) fun b => by simpa using le_total a b⟩
+  ⟨by
+    intros a b
+    induction' a using Real.ind_mk with a
+    induction' b using Real.ind_mk with b
+    simpa using le_total a b⟩
 
-noncomputable instance : LinearOrder ℝ :=
+noncomputable instance linearOrder : LinearOrder ℝ :=
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:559]: Idem

File: Mathlib/Data/Real/Basic.lean [hunk 10]
```diff
@@ -545,12 +550,16 @@ instance : SemilatticeSup ℝ :=
...
   Lattice.toLinearOrder _
 
-noncomputable instance : LinearOrderedCommRing ℝ :=
+noncomputable instance linearOrderedCommRing : LinearOrderedCommRing ℝ :=
```
Comment (jcommelin) [inline Mathlib/Data/Real/Basic.lean:562]: Idem

File: Mathlib/Data/Real/CauSeqCompletion.lean [hunk 11]
```diff
@@ -279,17 +279,16 @@ theorem ofRat_div (x y : β) : ofRat (x / y) = (ofRat x / ofRat y : Cauchy abv)
...
--- converging to the same number may be printed differently.
--- -/
--- unsafe instance [Repr β] : Repr (Cauchy abv) where
---   reprPrec r _ :=
---     let N := 10
---     let seq := r.unquot
---     "(sorry /- " ++ Std.Format.joinSep ((List.range N).map <| repr ∘ seq) ", " ++ ", ... -/)"
+/-- Show the first 10 items of a representative of this equivalence class of cauchy sequences.
+
+The representative chosen is the one passed in the VM to `quot.mk`, so two cauchy sequences
```
Comment (jcommelin) [inline Mathlib/Data/Real/CauSeqCompletion.lean:284]:
```suggestion
The representative chosen is the one passed in the VM to `Quot.mk`, so two cauchy sequences
```

File: test/Real.lean [hunk 12]
```diff
@@ -0,0 +1,17 @@
...
+import Mathlib.Data.Real.Basic
+
+unsafe def testRepr (r : ℝ) (s : String) : Lean.Elab.Command.CommandElabM Unit  :=
+unless toString (repr r) = s do throwError "got {repr r}"
+
+run_cmd unsafe testRepr 0 "Real.ofCauchy (sorry /- 0, 0, 0, 0, 0, 0, 0, 0, 0, 0, ... -/)"
+run_cmd unsafe testRepr 1 "Real.ofCauchy (sorry /- 1, 1, 1, 1, 1, 1, 1, 1, 1, 1, ... -/)"
+run_cmd unsafe testRepr (37 : ℕ) "Real.ofCauchy (sorry /- 37, 37, 37, 37, 37, 37, 37, 37, 37, 37, ... -/)"
+run_cmd unsafe testRepr (2 + 3) "Real.ofCauchy (sorry /- 5, 5, 5, 5, 5, 5, 5, 5, 5, 5, ... -/)"
+run_cmd unsafe testRepr ⟨cau_seq.completion.mk $ ⟨λ n, 2^(-n:ℤ), sorry⟩⟩
```
Comment (eric-wieser) [inline test/Real.lean:16]: This lambda is Lean 3 syntax

Comment (eric-wieser) [reply test/Real.lean:16]:
```suggestion
run_cmd unsafe testRepr ⟨cau_seq.completion.mk $ ⟨fun n ↦ 2^(-n:ℤ), sorry⟩⟩
```

File: test/Real.lean [hunk 13]
```diff
@@ -0,0 +1,17 @@
...
+import Mathlib.Data.Real.Basic
+
+unsafe def testRepr (r : ℝ) (s : String) : Lean.Elab.Command.CommandElabM Unit  :=
+unless toString (repr r) = s do throwError "got {repr r}"
+
+run_cmd unsafe testRepr 0 "Real.ofCauchy (sorry /- 0, 0, 0, 0, 0, 0, 0, 0, 0, 0, ... -/)"
+run_cmd unsafe testRepr 1 "Real.ofCauchy (sorry /- 1, 1, 1, 1, 1, 1, 1, 1, 1, 1, ... -/)"
+run_cmd unsafe testRepr (37 : ℕ) "Real.ofCauchy (sorry /- 37, 37, 37, 37, 37, 37, 37, 37, 37, 37, ... -/)"
+run_cmd unsafe testRepr (2 + 3) "Real.ofCauchy (sorry /- 5, 5, 5, 5, 5, 5, 5, 5, 5, 5, ... -/)"
+run_cmd unsafe testRepr ⟨cau_seq.completion.mk $ ⟨fun n ↦ 2^(-n:ℤ), sorry⟩⟩
```
Comment (eric-wieser) [inline test/Real.lean:16]:
```suggestion
run_cmd unsafe testRepr ⟨CauSeq.Completion.mk $ ⟨fun n ↦ 2^(-n:ℤ), sorry⟩⟩
```

File: Mathlib/Data/Real/Basic.lean (hunk 5 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/Real/Basic.lean:255]: It's used by name in the `StrictOrderedCommRing` instance

File: Mathlib/Data/Real/Basic.lean (hunk 6 above)
Comment (Ruben-VandeVelde) [reply Mathlib/Data/Real/Basic.lean:374]: Also for `StrictOrderedCommRing`

**Comment by jcommelin** [comment]
Thanks :tada:

bors merge
